US07595397B2
1-(2-Hydroxy-ethylamino)-3-phenyl-propan-2-ol
The above compound could be made in the same manner as Example 1 using the appropriate epoxide. 1 equivalent of (2,3-Epoxypropyl)benzene oxide and 4 eq. ethanol amine could be stirred at room temperature overnight. The solution could be poured into water and the water is extracted with dichloromethane. The combined dichloromethane layers could be washed with brine and concentrated.

reactant | (2,3-Epoxypropyl)benzene oxide | 1 equivalent | O1C(CC23C(C=CC=C2)O3)C1 | C9H10O2
reactant | ethanol amine | 4 eq. | C(O)CN | C2H7NO
solvent | water | O | H2O
product | 1-(2-Hydroxy-ethylamino)-3-phenyl-propan-2-ol | OCCNCC(CC1=CC=CC=C1)O | C11H17NO2
